US05801176
6-Chloro-3-piperazinylbenzo[b]thiophene-1,1-dioxide
A mixture of 3,6-dichlorobenzo[b]thiophene-1,1-dioxide (16.00 g, 0.0681 mol), piperazine (20.52 g, 0.238 mol) and dichloromethane (300 ml) was heated to reflux. After 1 hour, TLC analysis showed the dichlorosulfone (Rf =0.47, 30% ethyl acetate in hexanes, silica gel) to be consumed. The cloudy mixture was washed with 0.25 N NaOH (400 ml), H2O (300 ml), brine (250 ml), dried (Na2SO4), and the solvent removed under reduced pressure. The residue was chromatographed on silica gel, eluting with 50% methanol in dichloromethane, to afford 12.90 g (66.5%) of a yellow solid. A 1.60 g sample was recrystallized from dichloromethane/ether yielding 0.480 g of light yellow crystals: m.p. 154° C. dec.

reactant | 3,6-dichlorobenzo[b]thiophene-1,1-dioxide | 0.0681 mol, 16.00 g | ClC=1C2=C(S(C1)(=O)=O)C=C(C=C2)Cl | C8H4Cl2O2S
reactant | piperazine | 0.238 mol, 20.52 g | N1CCNCC1 | C4H10N2
reactant | dichlorosulfone | ClS(=O)(=O)Cl | Cl2O2S
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
product | 6-Chloro-3-piperazinylbenzo[b]thiophene-1,1-dioxide | 12.90 g, 66.5% | ClC=1C=CC2=C(S(C=C2N2CCNCC2)(=O)=O)C1 | C12H13ClN2O2S
